US07504417B2
2-Amino-N-(5-bromo-2-pyridyl)-3-hydroxybenzamide (1.99 g) and 990 mg of N-chlorosuccinimide were dissolved in 30 ml of N,N-dimethylformamide, the solution was stirred at 50° C. for 2 hours and the insoluble matter was filtered off. The solvent was evaporated in vacuo, water was added to the resulting residue and the precipitate was collected by filtration. This was dried in vacuo, purified by means of a silica gel column chromatography, water was added to the resulting crudely purified product and the resulting precipitate was collected by filtration and dried in vacuo to give 1.12 g of 2-amino-N-(5-bromo-2-pyridyl)-5-chloro-3-hydroxybenzamide.

reactant | 2-Amino-N-(5-bromo-2-pyridyl)-3-hydroxybenzamide | 1.99 g | NC1=C(C(=O)NC2=NC=C(C=C2)Br)C=CC=C1O | C12H10BrN3O2
reactant | N-chlorosuccinimide | 990 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-amino-N-(5-bromo-2-pyridyl)-5-chloro-3-hydroxybenzamide | 1.12 g | NC1=C(C(=O)NC2=NC=C(C=C2)Br)C=C(C=C1O)Cl | C12H9BrClN3O2
